US09216173B2
A mixture of 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-bromopyridine-2-carbonitrile TFA salt (62 mg, 0.15 mmol), 2-amino-6-ethylpyridine (19 mg, 0.15 mmol), Xantphos (13 mg, 0.023 mmol), Pd2(dba)3 (14 mg, 0.015 mmol), and cesium carbonate (197 mg, 0.606 mmol) was evacuated and backfilled with nitrogen (3×). Dioxane (1 mL) was added, and the reaction mixture was heated to 80° C. for 3 hours. The reaction mixture was allowed to cool to room temperature, filtered, and concentrated under reduced pressure to afford 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(6-ethylpyridin-2-yl)amino]pyridine-2-carbonitrile. The material was used without further purification in the subsequent transformation. MS ESI calc'd. for C19H25N6 [M+H]+ 337. found 337.

reactant | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-bromopyridine-2-carbonitrile TFA salt | 0.15 mmol, 62 mg | OC(=O)C(F)(F)F.N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)Br
reactant | 2-amino-6-ethylpyridine | 0.15 mmol, 19 mg | NC1=NC(=CC=C1)CC | C7H10N2
reactant | Xantphos | 0.023 mmol, 13 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.606 mmol, 197 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.015 mmol, 14 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-{[(1R,2S)-2-aminocyclohexyl]amino}-3-[(6-ethylpyridin-2-yl)amino]pyridine-2-carbonitrile | N[C@@H]1[C@@H](CCCC1)NC=1C=C(C(=NC1)C#N)NC1=NC(=CC=C1)CC | C19H24N6
